US07875617B2
4. 2-Ethoxycarbonyl-1-tetralone
To a stirred suspension of NaH (11 g, 274 mmol, 60% in oil) in toluene was added dropwise 1-tetralone (20 g, 137 mmol) in toluene (50 mL). After the complete addition, the mixture was heated at reflux for 1 h. Then at 60° C. diethylcarbonate was added (24 g, 137 mmol) dropwise and the mixture was again heated at reflux for 2 h. The reaction was quenched with aqueous HCl (4N, 100 mL) and dilute with H2O. Ether (200 mL) was added for the extraction, the organics were dried and concentrated to oil. Distillation (100° C. at 0.1 mm Hg) gave the title compound (19.1 g, 64%). 1H NMR (CDCl3, 200 MHz): δ 1.34 (t, 3H, J 7.0 Hz), 1.38 (t, 3H, J 7.0 Hz), 2.20-3.10 (m, 4H), 3.59 (1H, dd, J 7.0 Hz J 10.0 Hz), 4.24 (1H, q, J 7.0 Hz), 4.28 (q, 1H, J 7.0 Hz), 7.29 (m, 3H), 7.78 (m, 1H), 8.01 (m, 1H), 12.5 (s, 1H). 13C NMR (CDCl3, 50 MHz): δ 14.1, 14.2, 20.5, 26.36, 27.5, 27.7, 54.5. 60.4; 61.1; 96.9. 124.2, 126.5, 126.7, 127.2, 127.6; 128.7, 130.0, 130.4. 131.8. 133.7, 139.3, 143.6. 165.0, 170.1, 172.6, 193.0.

reactant | NaH | 274 mmol, 11 g | [H-].[Na+]
reactant | 1-tetralone | 137 mmol, 20 g | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | diethylcarbonate | C(C)OC(OCC)=O | C5H10O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Ethoxycarbonyl-1-tetralone | 19.1 g, 64% | C(C)OC(=O)C1C(C2=CC=CC=C2CC1)=O | C13H14O3
